US05318966
0.71 g (0.0187 mol) of lithium aluminum hydride was suspended in 20 ml of THF under argon. A solution of 4.7 g (0.01435 mol) of rac-cis-3-(3-cyclopentyl-propionyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole in 50 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 1/2 hour. 10 ml of THF/water 4:1, 4 ml of a 15% aqueous NaOH solution and 2 ml of water were cautiously added dropwise thereto in succession, whereupon the mixture was boiled under reflux for 10 minutes until a complete white precipitate had resulted. After filtration and concentration there was obtained an oil which was chromatographed over silica gel with n-hexane/ethyl acetate 1:1. There were obtained 4.40 g (98%) of rac-cis-3-(3-cyclopentyl-propyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole as a yellowish, oily material.

reactant | lithium aluminum hydride | 0.0187 mol, 0.71 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-3-(3-cyclopentyl-propionyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.01435 mol, 4.7 g | C1(CCCC1)CCC(=O)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C21H29NO2
reactant | THF water | 10 ml | C1CCOC1.O
reactant | NaOH | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | rac-cis-3-(3-cyclopentyl-propyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 4.40 g, 98% | C1(CCCC1)CCCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C21H31NO
